Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.82810332486
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:7].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])[H:12],3.61960770084
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.71784285886
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.73650855074
[C:8]=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.7457441957900002
[C:1]#[C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-2.42503401532
[H:1][C:2]=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-5.117941754009999
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.74404017434
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9](=[C:10])[H:11],3.83153571406
[C:1]=[C:2]([O:3][C:4][H:6])[C:7]([H:8])([H:9])[H:10].[O:5]>>[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-7.71332358265
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.98652528956
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.7684093847
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.36544818924
[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[O:1][C@:2]([H:3])([C:4]#[C:5])[C:10]([H:11])([H:12])[H:13],5.754002293019999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.71205626369
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:7][H:8].[H:6],5.014527504119998
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-3.92737903555
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],3.81241960956
[H:13].[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.99771885254
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][C:14]([H:15])([H:16])[H:17],4.875112183450001
[H:1][C:2]#[C:3][C:4](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.5643799576
[H:1][C:2]([H:3])=[C:4]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.84894213621
[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-0.946874855468
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],1.8917813378
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],4.35347592332
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.7577363072200001
[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5][O:6][H:7],-1.2164675820200002
